US07348116B2
3,6-Diiodo-9-benzoyl-9H-carbazole.
Potassium iodate (16.05 g, 75 mmol, available from Aldrich) is added in one portion to a stirred mixture of 9-benzoyl-9H-carbazole (34 mmol, available from Aldrich), potassium iodide (10.96 g, 66 mmol), and acetic acid (100 ml) at 80° C. The reaction mixture is stirred and heated for 1 hour. After the reaction was completed, the acetic acid is removed by distillation. The residue is dissolved in ethyl acetate and washed several times with water and sodium bicarbonate solution. The organic layer is dried over anhydrous magnesium sulfate, filtered, concentrated, and dried. The product is isolated and purified by conventional purification techniques such as recrystallization and chromatography.

reactant | Potassium iodate | 75 mmol, 16.05 g | I(=O)(=O)[O-].[K+]
reactant | 9-benzoyl-9H-carbazole | 34 mmol | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H13NO
reactant | potassium iodide | 66 mmol, 10.96 g | [I-].[K+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3,6-Diiodo-9-benzoyl-9H-carbazole | IC=1C=CC=2N(C3=CC=C(C=C3C2C1)I)C(C1=CC=CC=C1)=O | C19H11I2NO
